US04920116
4-[(1-Butylsulfonyl)amino]benzoic acid
In a manner similar to Preparation 9 react ethyl 4-aminobenzoate with 1-butanesulfonyl chloride and pyridine to obtain the title compound.

reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 1-butanesulfonyl chloride | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-[(1-Butylsulfonyl)amino]benzoic acid | C(CCC)S(=O)(=O)NC1=CC=C(C(=O)O)C=C1 | C11H15NO4S
